*$
* CSD19534KCS
***********************************************************************
*  (C) Copyright 2016 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD19534KCS
* Date: 06/03/2016
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS530 –JANUARY 2015
* Model Version: Final 1.00
*
*
**********************************************************************
**********************************************************************
*                                                                    *
* CSD19534KCS   -  PSpice Model for use with OrCAD                    *
*                                                                    *
**********************************************************************
.subckt	cgs19534	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	2.4961E-10	)
+	(	1	2.26073E-10	)
+	(	2	2.15909E-10	)
+	(	3	2.09208E-10	)
+	(	4	2.04727E-10	)
+	(	5	2.00662E-10	)
+	(	6	1.97157E-10	)
+	(	7	1.95605E-10	)
+	(	8	1.96135E-10	)
+	(	9	1.97229E-10	)
+	(	10	1.96505E-10	)
+	(	11	1.95728E-10	)
+	(	12	1.95921E-10	)
+	(	13	1.95092E-10	)
+	(	14	1.94253E-10	)
+	(	15	1.94403E-10	)
+	(	16	1.93543E-10	)
+	(	17	1.92675E-10	)
+	(	18	1.92805E-10	)
+	(	19	1.91924E-10	)
+	(	20	1.92042E-10	)
+	(	21	1.91158E-10	)
+	(	22	1.91277E-10	)
+	(	23	1.90395E-10	)
+	(	24	1.89518E-10	)
+	(	25	1.89643E-10	)
+	(	26	1.88769E-10	)
+	(	27	1.88892E-10	)
+	(	28	1.88017E-10	)
+	(	29	1.88136E-10	)
+	(	30	1.87248E-10	)
+	(	31	1.87356E-10	)
+	(	32	1.86454E-10	)
+	(	33	1.86545E-10	)
+	(	34	1.85626E-10	)
+	(	35	1.85699E-10	)
+	(	36	1.84765E-10	)
+	(	37	1.84828E-10	)
+	(	38	1.83881E-10	)
+	(	39	1.8393E-10	)
+	(	40	1.82975E-10	)
+	(	41	1.83017E-10	)
+	(	42	1.82055E-10	)
+	(	43	1.82094E-10	)
+	(	44	1.81125E-10	)
+	(	45	1.8116E-10	)
+	(	46	1.80188E-10	)
+	(	47	1.8022E-10	)
+	(	48	1.79248E-10	)
+	(	49	1.79276E-10	)
+	(	50	1.783E-10	)
+	(	51	1.78324E-10	)
+	(	52	1.77349E-10	)
+	(	53	1.7737E-10	)
+	(	54	1.76394E-10	)
+	(	55	1.76415E-10	)
+	(	56	1.75436E-10	)
+	(	57	1.75457E-10	)
+	(	58	1.74478E-10	)
+	(	59	1.74499E-10	)
+	(	60	1.73517E-10	)
+	(	61	1.73538E-10	)
+	(	62	1.72559E-10	)
+	(	63	1.72576E-10	)
+	(	64	1.71597E-10	)
+	(	65	1.71618E-10	)
+	(	66	1.70639E-10	)
+	(	67	1.69656E-10	)
+	(	68	1.69677E-10	)
+	(	69	1.68698E-10	)
+	(	70	1.68719E-10	)
+	(	71	1.6774E-10	)
+	(	72	1.67758E-10	)
+	(	73	1.66779E-10	)
+	(	74	1.668E-10	)
+	(	75	1.65817E-10	)
+	(	76	1.64838E-10	)
+	(	77	1.64859E-10	)
+	(	78	1.63877E-10	)
+	(	79	1.63894E-10	)
+	(	80	1.62915E-10	)
+	(	81	1.62933E-10	)
+	(	82	1.6195E-10	)
+	(	83	1.61968E-10	)
+	(	84	1.60985E-10	)
+	(	85	1.60002E-10	)
+	(	86	1.6002E-10	)
+	(	87	1.59037E-10	)
+	(	88	1.59055E-10	)
+	(	89	1.58069E-10	)
+	(	90	1.58086E-10	)
+	(	91	1.571E-10	)
+	(	92	1.56118E-10	)
+	(	93	1.56132E-10	)
+	(	94	1.55146E-10	)
+	(	95	1.5516E-10	)
+	(	96	1.54174E-10	)
+	(	97	1.54174E-10	)
+	(	98	1.54167E-10	)
+	(	99	1.54163E-10	)
+	(	100	1.54156E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs19534
.subckt	cgd19534	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	6.03899E-11	)
+	(	1	4.8927E-11	)
+	(	2	4.30907E-11	)
+	(	3	3.87922E-11	)
+	(	4	3.42734E-11	)
+	(	5	3.03383E-11	)
+	(	6	2.68435E-11	)
+	(	7	2.23946E-11	)
+	(	8	1.18648E-11	)
+	(	9	9.77143E-12	)
+	(	10	9.49534E-12	)
+	(	11	9.27167E-12	)
+	(	12	9.07946E-12	)
+	(	13	8.90822E-12	)
+	(	14	8.74746E-12	)
+	(	15	8.59718E-12	)
+	(	16	8.45739E-12	)
+	(	17	8.32459E-12	)
+	(	18	8.19528E-12	)
+	(	19	8.07646E-12	)
+	(	20	7.95763E-12	)
+	(	21	7.84231E-12	)
+	(	22	7.72348E-12	)
+	(	23	7.60466E-12	)
+	(	24	7.48234E-12	)
+	(	25	7.35653E-12	)
+	(	26	7.23072E-12	)
+	(	27	7.1084E-12	)
+	(	28	6.98259E-12	)
+	(	29	6.86376E-12	)
+	(	30	6.75193E-12	)
+	(	31	6.64359E-12	)
+	(	32	6.54574E-12	)
+	(	33	6.45487E-12	)
+	(	34	6.37449E-12	)
+	(	35	6.3011E-12	)
+	(	36	6.2347E-12	)
+	(	37	6.1718E-12	)
+	(	38	6.11937E-12	)
+	(	39	6.07045E-12	)
+	(	40	6.02502E-12	)
+	(	41	5.98308E-12	)
+	(	42	5.94464E-12	)
+	(	43	5.90619E-12	)
+	(	44	5.87474E-12	)
+	(	45	5.83979E-12	)
+	(	46	5.81183E-12	)
+	(	47	5.78038E-12	)
+	(	48	5.75242E-12	)
+	(	49	5.72446E-12	)
+	(	50	5.7E-12	)
+	(	51	5.67554E-12	)
+	(	52	5.65107E-12	)
+	(	53	5.6301E-12	)
+	(	54	5.60564E-12	)
+	(	55	5.58467E-12	)
+	(	56	5.5637E-12	)
+	(	57	5.54273E-12	)
+	(	58	5.52177E-12	)
+	(	59	5.5008E-12	)
+	(	60	5.48332E-12	)
+	(	61	5.46235E-12	)
+	(	62	5.44139E-12	)
+	(	63	5.42391E-12	)
+	(	64	5.40294E-12	)
+	(	65	5.38197E-12	)
+	(	66	5.36101E-12	)
+	(	67	5.34353E-12	)
+	(	68	5.32256E-12	)
+	(	69	5.30159E-12	)
+	(	70	5.28063E-12	)
+	(	71	5.25966E-12	)
+	(	72	5.24218E-12	)
+	(	73	5.22121E-12	)
+	(	74	5.20025E-12	)
+	(	75	5.18277E-12	)
+	(	76	5.1618E-12	)
+	(	77	5.14083E-12	)
+	(	78	5.12336E-12	)
+	(	79	5.10589E-12	)
+	(	80	5.08492E-12	)
+	(	81	5.06744E-12	)
+	(	82	5.04997E-12	)
+	(	83	5.0325E-12	)
+	(	84	5.01502E-12	)
+	(	85	4.99755E-12	)
+	(	86	4.98007E-12	)
+	(	87	4.9626E-12	)
+	(	88	4.94513E-12	)
+	(	89	4.93115E-12	)
+	(	90	4.91367E-12	)
+	(	91	4.89969E-12	)
+	(	92	4.88222E-12	)
+	(	93	4.86824E-12	)
+	(	94	4.85426E-12	)
+	(	95	4.84028E-12	)
+	(	96	4.8263E-12	)
+	(	97	4.8263E-12	)
+	(	98	4.83329E-12	)
+	(	99	4.83679E-12	)
+	(	100	4.84378E-12	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd19534
.subckt	cds19534	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	1.72961E-09	)
+	(	1	1.47107E-09	)
+	(	2	1.28891E-09	)
+	(	3	1.15721E-09	)
+	(	4	1.04573E-09	)
+	(	5	9.58662E-10	)
+	(	6	8.82357E-10	)
+	(	7	7.84305E-10	)
+	(	8	5.93335E-10	)
+	(	9	5.34129E-10	)
+	(	10	5.05505E-10	)
+	(	11	4.81828E-10	)
+	(	12	4.61721E-10	)
+	(	13	4.44392E-10	)
+	(	14	4.29553E-10	)
+	(	15	4.16703E-10	)
+	(	16	4.05843E-10	)
+	(	17	3.96875E-10	)
+	(	18	3.89905E-10	)
+	(	19	3.85024E-10	)
+	(	20	3.82242E-10	)
+	(	21	3.81658E-10	)
+	(	22	3.82877E-10	)
+	(	23	3.85795E-10	)
+	(	24	3.89618E-10	)
+	(	25	3.93643E-10	)
+	(	26	3.97369E-10	)
+	(	27	3.99992E-10	)
+	(	28	4.01217E-10	)
+	(	29	4.00836E-10	)
+	(	30	3.98748E-10	)
+	(	31	3.95056E-10	)
+	(	32	3.89954E-10	)
+	(	33	3.83645E-10	)
+	(	34	3.76426E-10	)
+	(	35	3.68499E-10	)
+	(	36	3.60265E-10	)
+	(	37	3.51728E-10	)
+	(	38	3.43281E-10	)
+	(	39	3.3493E-10	)
+	(	40	3.26675E-10	)
+	(	41	3.18717E-10	)
+	(	42	3.11055E-10	)
+	(	43	3.03494E-10	)
+	(	44	2.96225E-10	)
+	(	45	2.8906E-10	)
+	(	46	2.82188E-10	)
+	(	47	2.7542E-10	)
+	(	48	2.68748E-10	)
+	(	49	2.62276E-10	)
+	(	50	2.558E-10	)
+	(	51	2.49524E-10	)
+	(	52	2.43349E-10	)
+	(	53	2.3727E-10	)
+	(	54	2.31194E-10	)
+	(	55	2.25315E-10	)
+	(	56	2.19636E-10	)
+	(	57	2.14057E-10	)
+	(	58	2.08678E-10	)
+	(	59	2.03499E-10	)
+	(	60	1.98717E-10	)
+	(	61	1.94238E-10	)
+	(	62	1.89959E-10	)
+	(	63	1.86076E-10	)
+	(	64	1.82497E-10	)
+	(	65	1.79218E-10	)
+	(	66	1.76239E-10	)
+	(	67	1.73456E-10	)
+	(	68	1.70877E-10	)
+	(	69	1.68598E-10	)
+	(	70	1.66419E-10	)
+	(	71	1.6444E-10	)
+	(	72	1.62558E-10	)
+	(	73	1.60879E-10	)
+	(	74	1.593E-10	)
+	(	75	1.57817E-10	)
+	(	76	1.56438E-10	)
+	(	77	1.55159E-10	)
+	(	78	1.53877E-10	)
+	(	79	1.52794E-10	)
+	(	80	1.51715E-10	)
+	(	81	1.50733E-10	)
+	(	82	1.4975E-10	)
+	(	83	1.48868E-10	)
+	(	84	1.48085E-10	)
+	(	85	1.47302E-10	)
+	(	86	1.4652E-10	)
+	(	87	1.45837E-10	)
+	(	88	1.45155E-10	)
+	(	89	1.44569E-10	)
+	(	90	1.43986E-10	)
+	(	91	1.434E-10	)
+	(	92	1.42918E-10	)
+	(	93	1.42332E-10	)
+	(	94	1.41846E-10	)
+	(	95	1.4146E-10	)
+	(	96	1.40974E-10	)
+	(	97	1.40874E-10	)
+	(	98	1.40867E-10	)
+	(	99	1.40963E-10	)
+	(	100	1.40956E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds19534
.SUBCKT CSD19534KCS  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    13.50e-3  
 .PARAM  ptrc2    3.50e-5
 .PARAM  pwidthP  2.1
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.05u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	5	10	1	3	cgd19534
cgs	5	8	0.63e-9
*xcgs	5	8	1	3	cgs
xcds	8	10	1	3	cds19534
DBD	3	1	DBD
LGG   2  5	 2.1e-9
RGG   5 11	 6.00
RSB  12  9	 RTEMP 0.23166e-3
R   9  8 	 RTEMP 0.23166e-3
RSP   8  6 	 {0.45e-3+1.3e-3*0}
L   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP 5.85e-3
RDP   4  7	 {0.5e-4+0.52e-3+4.25e-3+0.96e-3}
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 600
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.30        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -1.225
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.55e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18		gamma	=	10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=101
+ IS=1.5e-12 N=1.06 RS=1.60e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS CSD19534KCS
*$
*