***********************************************************************
**  v1.7.5 PSpice Models Library - TI NexFET Power N/P Channel FET's
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
* Notice:
* The data and models provided herein are intended to be used by 
* customers as an aid in designing electrical circuits using 
* semiconductor devices manufactured &/or sold by Texas Instruments.
* The models and associated information contained herein are not to
* be construed as a guarantee of electrical performance and/or device 
* specification.  Therefore, Texas Instruments does not assume any 
* liability arising out of the use of said data or models, nor from
* the devices or products manufactured therefrom.  Texas Instruments
* does not convey any license under its patent rights nor the rights
* of others.  Texas Instruments reserves the right to change models 
* without prior notice.  
*
* TI is a registered trademark of Texas Instruments Inc.
*************************************************************************
********************************************************************************
*
* Released by: Webench Design Center, Texas Instruments Inc.
* Part: CSD18502KCS
* Date: 08/20/2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Datasheet: SLPS367 - AUGUST 2012
*
*****************************************************************************
 *$
**********************************************************************
**********************************************************************
*                                                                    *
* CSD18502KCS   -  PSpice Model for use with OrCAD                   *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+ (	0	1.49E-09	)
+ (	0.5	1.49E-09	)
+ (	1	1.48E-09	)
+ (	1.5	1.47E-09	)
+ (	2	1.47E-09	)
+ (	2.5	1.46E-09	)
+ (	3	1.45E-09	)
+ (	3.5	1.45E-09	)
+ (	4	1.44E-09	)
+ (	4.5	1.44E-09	)
+ (	5	1.44E-09	)
+ (	5.5	1.43E-09	)
+ (	6	1.43E-09	)
+ (	6.5	1.43E-09	)
+ (	7	1.43E-09	)
+ (	7.5	1.43E-09	)
+ (	8	1.43E-09	)
+ (	8.5	1.43E-09	)
+ (	9	1.43E-09	)
+ (	9.5	1.43E-09	)
+ (	10	1.44E-09	)
+ (	10.5	1.44E-09	)
+ (	11	1.49E-09	)
+ (	11.5	1.50E-09	)
+ (	12	1.50E-09	)
+ (	12.5	1.50E-09	)
+ (	13	1.50E-09	)
+ (	13.5	1.50E-09	)
+ (	14	1.50E-09	)
+ (	14.5	1.50E-09	)
+ (	15	1.49E-09	)
+ (	15.5	1.49E-09	)
+ (	16	1.49E-09	)
+ (	16.5	1.49E-09	)
+ (	17	1.49E-09	)
+ (	17.5	1.49E-09	)
+ (	18	1.49E-09	)
+ (	18.5	1.49E-09	)
+ (	19	1.49E-09	)
+ (	19.5	1.49E-09	)
+ (	20	1.49E-09	)
+ (	20.5	1.48E-09	)
+ (	21	1.48E-09	)
+ (	21.5	1.48E-09	)
+ (	22	1.48E-09	)
+ (	22.5	1.48E-09	)
+ (	23	1.48E-09	)
+ (	23.5	1.48E-09	)
+ (	24	1.48E-09	)
+ (	24.5	1.48E-09	)
+ (	25	1.48E-09	)
+ (	25.5	1.47E-09	)
+ (	26	1.47E-09	)
+ (	26.5	1.47E-09	)
+ (	27	1.47E-09	)
+ (	27.5	1.47E-09	)
+ (	28	1.47E-09	)
+ (	28.5	1.47E-09	)
+ (	29	1.47E-09	)
+ (	29.5	1.47E-09	)
+ (	30	1.47E-09	)
+ (	30.5	1.46E-09	)
+ (	31	1.46E-09	)
+ (	31.5	1.46E-09	)
+ (	32	1.46E-09	)
+ (	32.5	1.46E-09	)
+ (	33	1.46E-09	)
+ (	33.5	1.46E-09	)
+ (	34	1.46E-09	)
+ (	34.5	1.45E-09	)
+ (	35	1.45E-09	)
+ (	35.5	1.45E-09	)
+ (	36	1.45E-09	)
+ (	36.5	1.45E-09	)
+ (	37	1.45E-09	)
+ (	37.5	1.45E-09	)
+ (	38	1.45E-09	)
+ (	38.5	1.44E-09	)
+ (	39	1.44E-09	)
+ (	39.5	1.44E-09	)
+ (	40	1.44E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+ (	0	4.02E-10	)
+ (	0.5	3.62E-10	)
+ (	1	3.35E-10	)
+ (	1.5	3.21E-10	)
+ (	2	3.11E-10	)
+ (	2.5	3.01E-10	)
+ (	3	2.91E-10	)
+ (	3.5	2.82E-10	)
+ (	4	2.72E-10	)
+ (	4.5	2.63E-10	)
+ (	5	2.54E-10	)
+ (	5.5	2.46E-10	)
+ (	6	2.38E-10	)
+ (	6.5	2.30E-10	)
+ (	7	2.21E-10	)
+ (	7.5	2.10E-10	)
+ (	8	1.98E-10	)
+ (	8.5	1.88E-10	)
+ (	9	1.77E-10	)
+ (	9.5	1.66E-10	)
+ (	10	1.54E-10	)
+ (	10.5	1.41E-10	)
+ (	11	8.07E-11	)
+ (	11.5	3.12E-11	)
+ (	12	3.07E-11	)
+ (	12.5	2.95E-11	)
+ (	13	2.85E-11	)
+ (	13.5	2.76E-11	)
+ (	14	2.68E-11	)
+ (	14.5	2.62E-11	)
+ (	15	2.56E-11	)
+ (	15.5	2.50E-11	)
+ (	16	2.45E-11	)
+ (	16.5	2.40E-11	)
+ (	17	2.36E-11	)
+ (	17.5	2.32E-11	)
+ (	18	2.28E-11	)
+ (	18.5	2.24E-11	)
+ (	19	2.21E-11	)
+ (	19.5	2.18E-11	)
+ (	20	2.15E-11	)
+ (	20.5	2.12E-11	)
+ (	21	2.10E-11	)
+ (	21.5	2.07E-11	)
+ (	22	2.05E-11	)
+ (	22.5	2.03E-11	)
+ (	23	2.01E-11	)
+ (	23.5	1.99E-11	)
+ (	24	1.97E-11	)
+ (	24.5	1.96E-11	)
+ (	25	1.94E-11	)
+ (	25.5	1.93E-11	)
+ (	26	1.92E-11	)
+ (	26.5	1.91E-11	)
+ (	27	1.90E-11	)
+ (	27.5	1.89E-11	)
+ (	28	1.88E-11	)
+ (	28.5	1.88E-11	)
+ (	29	1.87E-11	)
+ (	29.5	1.87E-11	)
+ (	30	1.86E-11	)
+ (	30.5	1.86E-11	)
+ (	31	1.86E-11	)
+ (	31.5	1.86E-11	)
+ (	32	1.86E-11	)
+ (	32.5	1.86E-11	)
+ (	33	1.87E-11	)
+ (	33.5	1.87E-11	)
+ (	34	1.88E-11	)
+ (	34.5	1.89E-11	)
+ (	35	1.90E-11	)
+ (	35.5	1.91E-11	)
+ (	36	1.92E-11	)
+ (	36.5	1.94E-11	)
+ (	37	1.95E-11	)
+ (	37.5	1.97E-11	)
+ (	38	1.99E-11	)
+ (	38.5	2.01E-11	)
+ (	39	2.03E-11	)
+ (	39.5	2.05E-11	)
+ (	40	2.07E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+ (	0	6.18E-09	)
+ (	0.5	5.57E-09	)
+ (	1	4.92E-09	)
+ (	1.5	4.48E-09	)
+ (	2	4.16E-09	)
+ (	2.5	3.91E-09	)
+ (	3	3.70E-09	)
+ (	3.5	3.52E-09	)
+ (	4	3.36E-09	)
+ (	4.5	3.23E-09	)
+ (	5	3.10E-09	)
+ (	5.5	2.99E-09	)
+ (	6	2.89E-09	)
+ (	6.5	2.79E-09	)
+ (	7	2.69E-09	)
+ (	7.5	2.58E-09	)
+ (	8	2.48E-09	)
+ (	8.5	2.38E-09	)
+ (	9	2.30E-09	)
+ (	9.5	2.22E-09	)
+ (	10	2.15E-09	)
+ (	10.5	2.07E-09	)
+ (	11	2.04E-09	)
+ (	11.5	1.94E-09	)
+ (	12	1.31E-09	)
+ (	12.5	1.25E-09	)
+ (	13	1.21E-09	)
+ (	13.5	1.17E-09	)
+ (	14	1.14E-09	)
+ (	14.5	1.11E-09	)
+ (	15	1.08E-09	)
+ (	15.5	1.06E-09	)
+ (	16	1.03E-09	)
+ (	16.5	1.01E-09	)
+ (	17	9.86E-10	)
+ (	17.5	9.66E-10	)
+ (	18	9.47E-10	)
+ (	18.5	9.29E-10	)
+ (	19	9.12E-10	)
+ (	19.5	8.96E-10	)
+ (	20	8.80E-10	)
+ (	20.5	8.65E-10	)
+ (	21	8.51E-10	)
+ (	21.5	8.38E-10	)
+ (	22	8.26E-10	)
+ (	22.5	8.13E-10	)
+ (	23	8.02E-10	)
+ (	23.5	7.91E-10	)
+ (	24	7.81E-10	)
+ (	24.5	7.71E-10	)
+ (	25	7.61E-10	)
+ (	25.5	7.52E-10	)
+ (	26	7.43E-10	)
+ (	26.5	7.35E-10	)
+ (	27	7.27E-10	)
+ (	27.5	7.20E-10	)
+ (	28	7.13E-10	)
+ (	28.5	7.06E-10	)
+ (	29	7.00E-10	)
+ (	29.5	6.94E-10	)
+ (	30	6.89E-10	)
+ (	30.5	6.83E-10	)
+ (	31	6.78E-10	)
+ (	31.5	6.74E-10	)
+ (	32	6.70E-10	)
+ (	32.5	6.65E-10	)
+ (	33	6.62E-10	)
+ (	33.5	6.58E-10	)
+ (	34	6.55E-10	)
+ (	34.5	6.52E-10	)
+ (	35	6.50E-10	)
+ (	35.5	6.47E-10	)
+ (	36	6.45E-10	)
+ (	36.5	6.43E-10	)
+ (	37	6.42E-10	)
+ (	37.5	6.40E-10	)
+ (	38	6.39E-10	)
+ (	38.5	6.38E-10	)
+ (	39	6.38E-10	)
+ (	39.5	6.37E-10	)
+ (	40	6.37E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
.SUBCKT CSD18502KCS  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    12.5e-3  
 .PARAM  ptrc2    2.75e-5
 .PARAM  pwidthP  7.094733333
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.11u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	5	10	1	3	cgd
cgs	5	8	1.85e-9
*xcgs	8	5	1	3	cgs
xcds	8	10	1	3	cds
DBD	3	1	DBD
LGG   2  5	 2.1e-9
RGG   5 11	 4.25
RSB  12  9	 RTEMP 0.23166e-3
R   9  8 	 RTEMP 0.23166e-3
RSP   8  6 	 0.50e-3
L   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP 0.62e-3
RDP   4  7	 {0.92e-3+0.23e-3}
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 670
+ UA     = 0.5e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.48        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.8
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.275e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18		gamma	=	10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=41
+ IS=8.0e-12 N=1.045 RS=1.25e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
.MODEL DDx D (CJO=0.085e-09 VJ=0.50 M=0.45 IS=1e-12 RS=1.0 TNOM=27)
*******************************************************************
.ENDS CSD18502KCS
*$